US04469868
A mixture of 5-cyclopropyl-1,3-dimethyl-1H-pyrazolo[4,3-d]pyrimidin-7-ol (14.3 g, 0.07 mol) and 18 g (0.088 mol) phosphorus pentachloride in 150 ml of phosphorus oxychloride is stirred under reflux for seven hours and evaporated in vacuo. The residue is dissolved in methylene dichloride and stirred with a saturated aqueous solution of NaHCO3. The organic layer is separated, dried (MgSO4), and evaporated in vacuo to give 13.9 g (84%) of 7-chloro-5-cyclopropyl-1,3-dimethyl-pyrazolo[4,3-d]pyrimidine, mp 87°-90° C. from heptane.

reactant | 5-cyclopropyl-1,3-dimethyl-1H-pyrazolo[4,3-d]pyrimidin-7-ol | 0.07 mol, 14.3 g | C1(CC1)C=1N=C(C2=C(N1)C(=NN2C)C)O | C10H12N4O
reactant | phosphorus pentachloride | 0.088 mol, 18 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | phosphorus oxychloride | 150 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 7-chloro-5-cyclopropyl-1,3-dimethyl-pyrazolo[4,3-d]pyrimidine | 13.9 g, 84% | ClC=1C2=C(N=C(N1)C1CC1)C(=NN2C)C | C10H11ClN4
